US08293735B2
4-Bromo-1H-indole-2-carboxylic acid amide
Oxalyl chloride (0.9 mL, 10 mmol) was added to a suspension of 4-bromo-1H-indole-2-carboxylic acid (2.1 g, 8.8 mmol) in DCM and the mixture was stirred for 2 h. The solution formed was added drop-wise to a stirring mixture of ammonia (37%, 50 mL) and ice (50 mL). The resulting mixture was allowed to stand for 3 days. The mixture was filtered and the filtrate extracted with EtOAc. The solid from the filtration was dissolved in EtOAc and the organic solutions were combined, dried (MgSO4) and then evaporated to afford the title compound as a brown solid (2.1 g, 100%).

reactant | Oxalyl chloride | 10 mmol, 0.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-1H-indole-2-carboxylic acid | 8.8 mmol, 2.1 g | BrC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6BrNO2
reactant | ammonia | 50 mL | N | H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Bromo-1H-indole-2-carboxylic acid amide | 2.1 g, 100% | BrC1=C2C=C(NC2=CC=C1)C(=O)N | C9H7BrN2O
